US08791132B2
To a solution of 2,8-dimethyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole (200 mg, 1.0 mmol) in DCM (4 mL) were added powdered KOH (392 mg, 7.0 mmol) and phenylamine (111 mg, 1.2 mmol). The reaction mixture was stirred at 85° C. for 2 h. The reaction mixture was diluted with water (20 mL) and extracted with DCM (3×20 mL). The combined organic layer was washed with water (3×30 mL), dried over anhydrous sodium sulfate and concentrated under reduced pressure to afford crude material, which was purified by silica gel column chromatography (3% MeOH-DCM), followed by reverse phase HPLC to yield (2,8-dimethyl-1,2,3,4-tetrahydro-pyrido[4,3-b]indol-5-ylmethyl)-phenyl-amine (20 mg). 1H NMR (CD3OD, freebase) δ (ppm): 7.4 (d, 1H), 7.07 (s, 1H), 7.0 (t, 2H), 6.97 (d, 1H), 6.67 (d, 2H), 6.6 (t, 1H), 5.42 (s, 2H), 3.7 (s, 2H), 3.07 (t, 2H), 2.9 (t, 2H), 2.58 (s, 3H), 2.4 (s, 3H).

reactant | 2,8-dimethyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole | 1.0 mmol, 200 mg | CN1CC2=C(NC=3C=CC(=CC23)C)CC1 | C13H16N2
reactant | KOH | 7.0 mmol, 392 mg | [OH-].[K+]
reactant | phenylamine | 1.2 mmol, 111 mg | C1(=CC=CC=C1)N | C6H7N
reactant | DCM | 4 mL | C(Cl)Cl | CH2Cl2
solvent | water | 20 mL | O | H2O
product | (2,8-dimethyl-1,2,3,4-tetrahydro-pyrido[4,3-b]indol-5-ylmethyl)-phenyl-amine | 20 mg | CN1CC2=C(N(C=3C=CC(=CC23)C)CNC2=CC=CC=C2)CC1 | C20H23N3
